* source AMP-MOSFET-80W
V_V2         N15896 0 50Vdc
V_V1         0 N15974 +50Vdc
R_R6         N17790 N18297  22k TC=0,0 
R_R7         N18307 N18297  1k TC=0,0 
C_C3         0 N18307  47u  TC=0,0 
R_R8         N16418 N18658  150 TC=0,0 
R_R9         0 N16404  22k TC=0,0 
D_D1         N15896 N18669 D1N4002 
R_R10         N18669 N18658  100 TC=0,0 
X_R12         N17905 N17905 N17916 POT PARAMS: SET=0.52 VALUE=200R
C_C4         N17905 N17916  100n  TC=0,0 
X_U3         N15896 N16843 N17790 ECX10N20
R_R16         N16843 N17916  220 TC=0,0 
X_U4         N15974 N18950 N17790 ECX10P20
R_R21         N18950 N17905  220 TC=0,0 
D_D2         N17790 N17890 BZX84C12V/PLP 
D_D3         N17916 N17890 D1N914 
D_D5         N17905 N17901 BZX84C12V/PLP 
D_D4         N17790 N17901 D1N914 
R_R23         N18177 N93474  68 TC=0,0 
R_R24         N18177 N93470  68 TC=0,0 
C_C10         N18567 N17790  22n  TC=0,0 
R_R25         0 N18567  6.8R TC=0,0 
C_C11         0 N18658  100u  TC=0,0 
D_D6         N18886 N15974 D1N4002 
R_R26         N18886 N18177  100 TC=0,0 
C_C12         0 N18177  100u  TC=0,0 
R_R28         0 N17790  4R TC=0,0 
R_R5         N97330 N42493  180 TC=0,0 
R_R29         N97326 N42493  180 TC=0,0 
C_C2         0 N60990  33p  TC=0,0 
V_V3         N60966 0  AC 1V
+SIN 0V 0.5V 1kHz 0 0 0
C_C1         N60966 N60976  3.3u  TC=0,0 
R_R4         N60990 N60976  470 TC=0,0 
R_R3         0 N60976  22k TC=0,0 
R_R35         N18177 N72228  1k TC=0,0 
R_R38         0 N69304  22k TC=0,0 
R_R37         N69264 N18658  40.6 TC=0,0 
Q_Q28         N17916 N69304 N69264 Q2N5401C 
Q_Q26         N17905 N72228 N97854 Q2N5551C 
Q_Q44         N69304 N69264 N18658 BC856B 
Q_Q46         N16404 N16418 N18658 BC856B 
Q_Q47         N42493 N16404 N16418 BC856B 
Q_Q50         N97755 N68891 N93470 BC846B 
Q_Q51         N68891 N68891 N93474 BC846B 
Q_Q52         N72222 N97729 N68891 BC846B 
Q_Q53         N97729 N97729 N97755 BC846B 
R_R39         N18177 N97854  56 TC=0,0 
C_C14         N72222 N17905  100p  TC=0,0 
Q_Q54         0 N72222 N72228 Q2N5551C 
Q_Q55         N72222 N60990 N97330 Q2N5401C 
Q_Q56         N97729 N18297 N97326 Q2N5401C 
.PARAM  cg=18p
